US04025537
A mixture of 4.65 g (0.02 mole) ethyl 2-benzoyl-2-pentenoate and 3.56 g (0.02 mole) N-bromosuccinimide in 50 ml of carbon tetrachloride was heated at reflux for 2 hours. After cooling, the succinimide was removed by filtration and the solution concentrated. Distillation of the crude product gave 4.25 g (92%) of ethyl 5-methyl-2-phenyl-3-furoate, bp 133°-135° C. (0.6 mm).

reactant | ethyl 2-benzoyl-2-pentenoate | 0.02 mole, 4.65 g | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=CCC | C14H16O3
reactant | N-bromosuccinimide | 0.02 mole, 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 5-methyl-2-phenyl-3-furoate | 4.25 g, 92% | CC1=CC(=C(O1)C1=CC=CC=C1)C(=O)OCC | C14H14O3
